US07678815B2
A solution of 2-amino-5-fluoro pyridine (0.15 g, 1.38 mmol) in 10 ml dry dioxane was treated at 0° C. with trimethylaluminium (2M in hexane, 0.69 ml, 1.38 mmol). The mixture was stirred at room temperature for 1 h. 2-Methyl-5-(3-sulfamoyl-phenylamino)-thiazole-4-carboxylic acid ethyl ester (0.12 g, 0.35 mmol) was added and the reaction mixture was refluxed for 4 h. 1 ml water and 2 g sodium sulfate were sequentially added and filtered. The filtrate was evaporated and the residue purified by flash chromatography (hetane, ethyl acetate) to yield 2-methyl-5-(3-sulfamoyl-phenylamino)-thiazole-4-carboxylic acid (5-fluoro-pyridin-2-yl)-amide (0.004 g, 3%) as an off-white solid, MS (ISP): m/e=408.4 (M+H+).

reactant | 2-amino-5-fluoro pyridine | 1.38 mmol, 0.15 g | NC1=NC=C(C=C1)F | C5H5FN2
reactant | trimethylaluminium | 1.38 mmol, 2M, 0.69 ml | C[Al](C)C
reactant | 2-Methyl-5-(3-sulfamoyl-phenylamino)-thiazole-4-carboxylic acid ethyl ester | 0.35 mmol, 0.12 g | C(C)OC(=O)C=1N=C(SC1NC1=CC(=CC=C1)S(N)(=O)=O)C | C13H15N3O4S2
reactant | sodium sulfate | 2 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 1 ml | O | H2O
product | 2-methyl-5-(3-sulfamoyl-phenylamino)-thiazole-4-carboxylic acid (5-fluoro-pyridin-2-yl)-amide | 0.004 g, 3% | FC=1C=CC(=NC1)NC(=O)C=1N=C(SC1NC1=CC(=CC=C1)S(N)(=O)=O)C | C16H14FN5O3S2
